US07700786B2
Sulfuryl chloride (0.16 g, 1.2 mmol) was added to a solution of N-isopropyl-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide (0.40 g, 1.0 mmol) in acetic acid (5 ml), and the mixture was stirred at room temperature for 4 hours. After completion of the reaction, the reaction mixture was poured into ice water and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant. The solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/20), to give a white solid of N-isopropyl-4-chloro-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide (0.19 g, yield: 44.1%) [mp: 109-111° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.20 (d, J=7.5 Hz, 6H), 2.61 (s, 3H), 3.85-4.10 (m, 1H), 6.25-6.50 (m, 1H), 7.67 (s, 2H).] and a white solid of N-isopropyl-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-trichloromethylpyrazole-1-carboxamide (0.04 g, yield: 8.0%) [mp: 105-106° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.22 (d, J=6.5 Hz, 6H), 3.85-4.15 (m, 1H), 6.25-6.55 (m, 1H), 7.69 (s, 2H), 8.24 (s, 1H)].

reactant | Sulfuryl chloride | 1.2 mmol, 0.16 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | N-isopropyl-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide | 1.0 mmol, 0.40 g | C(C)(C)NC(=O)N1N=C(C=C1C)OC1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H14Cl2F3N3O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-isopropyl-4-chloro-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide | 0.19 g, yield: 44.1% | C(C)(C)NC(=O)N1N=C(C(=C1C)Cl)OC1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H13Cl3F3N3O2
